US09428469B2
N-tert-butyl-4-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzenesulfonamide (Compound 18)
To a solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (100 mg, 410 μmol) in MeOH (5 mL) was added N-tert-butyl-4-formylbenzenesulfonamide (109 mg, 451 μmol) followed by acetic acid (36.7 mg, 35 μl, 611 μmol). The reaction was stirred at room temperature for 15 minutes, 2-picoline borane complex (65.7 mg, 615 μmol) was added and the stirring was continued for 3 days. The reaction mixture was poured into 0.1N HCl solution (25 ml) and was extracted with EtOAc (3×30 ml). The combined organic solution was washed with brine, dried over Na2SO4 and concentrated to give a residue. The crude material was purified by flash chromatography (silica gel, 24 g, 3% to 5% MeOH in DCM) to give an off white solid as desired product (98 mg, 51% yield). MS +m/z: 469 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | N-tert-butyl-4-formylbenzenesulfonamide | 451 μmol, 109 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)C=O | C11H15NO3S
reactant | acetic acid | 611 μmol, 35 μl, 36.7 mg | C(C)(=O)O | C2H4O2
reactant | HCl | 0.1N, 25 ml | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | N-tert-butyl-4-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzenesulfonamide | 98 mg, 51% yield | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)CNC1=NC(=NN1)NC1=CC(=CC(=C1)Cl)Cl | C19H22Cl2N6O2S
